US08629147B2
2-Ethyl-7-[2-(4-nitro-phenyl)-ethyl]-2,7-diaza-spiro[4.4]nonane from above was dissolved in ethanol (60 ml) and 20% Pd(OH)2 (30 mg) was added and the reaction was stirred 16 h under an atmosphere of hydrogen gas by means of a balloon reservoir. The reaction was filtered thru Celite and the filtrate evaporated to afford 4-[2-(7-Ethyl-2,7-diaza-spiro[4.4]non-2-yl)-ethyl]-phenylamine and a crude oil (1.45 g) which was used as is in the next step.

reactant | 2-Ethyl-7-[2-(4-nitro-phenyl)-ethyl]-2,7-diaza-spiro[4.4]nonane | C(C)N1CC2(CC1)CN(CC2)CCC2=CC=C(C=C2)[N+](=O)[O-] | C17H25N3O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | Pd(OH)2 | 30 mg | [OH-].[OH-].[Pd+2]
product | 4-[2-(7-Ethyl-2,7-diaza-spiro[4.4]non-2-yl)-ethyl]-phenylamine | C(C)N1CC2(CCN(C2)CCC2=CC=C(C=C2)N)CC1 | C17H27N3
